US07812160B2
To a mixture of methyl [2-(4-aminobenzyl)-4-chloro-6-(dimethylamino)pyrimidin-5-yl]acetate (0.090 g, 0.30 mmol) and PyBOP (0.187 g, 0.36 mmol) in anhydrous DMF (1 mL) at room temperature was added 2-naphthoic acid (0.062 g, 0.36 mmol). The resulting reaction mixture was stirred at room temperature for 3 hours at which time water was added and the resulting aqueous phase was extracted with EtOAc. The combined organic extracts was sequentially washed with 0.5N HCl, saturated NaHCO3, and brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to give methyl {4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate as a colorless oil.

reactant | methyl [2-(4-aminobenzyl)-4-chloro-6-(dimethylamino)pyrimidin-5-yl]acetate | 0.30 mmol, 0.090 g | NC1=CC=C(CC2=NC(=C(C(=N2)Cl)CC(=O)OC)N(C)C)C=C1 | C16H19ClN4O2
reactant | PyBOP | 0.36 mmol, 0.187 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2-naphthoic acid | 0.36 mmol, 0.062 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | methyl {4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate | ClC1=NC(=NC(=C1CC(=O)OC)N(C)C)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C27H25ClN4O3
